datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:8],32.7607
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][C:30]([H:31])([H:32])[H:33],47.475848
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([O:8][H:11])([H:9])[H:10]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][C:7]([O:8][H:11])([H:9])[H:10],0.0
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[H:8][c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],18.4096
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([H:8])([H:9])[H:10],70.5004
[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([H:13])([H:14])[H:15])([O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]=[O:3])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])(=[O:6])[H:12],46.35872
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([S:13][H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11]([C:12]([S:13][H:19])[H:18])([H:14])([H:15])[H:16],57.3208
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:11])([H:9])[H:10],151.461
[O:0]([H:1])[H:2].[O:3]>>[H:1][O:3].[O:0][H:2],74.6007
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])[H:12],35.9824
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([O:5][H:13])([O:6][O:7][H:14])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([O:2][O:3][H:11])([H:10])[C:4]([O:5][H:13])([H:12])[O:6]1.[O:7][H:14],77.15296
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:12])([H:13])[H:14])[H:5],38.2418
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][H:10],6.6944
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])([H:15])([H:16])[H:17]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:15])([H:16])[H:17])([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23],15.8992
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[O:18]([O:19][H:21])[H:20]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:20])[H:14])[H:10])([H:7])([H:8])[H:9].[O:18][O:19][H:21],41.84
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([O:4][C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([O:4][H:14])[H:7])[H:6].[C:5]([H:11])([H:12])[H:13],92.6869
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:23])([H:24])[H:25])[c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:19])([H:20])[H:21])([C:11]([C:12]([H:23])([H:24])[H:25])[c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:22])[H:4],37.0284
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0]([C:1]([S:2])([H:6])[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10])([H:3])([H:4])[H:5],2.25936
